US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-{4-[(1S)-1-(t-butyldiphenylsilyloxymethyl)-propylcarbamoyl]-1,3-thiazol-2-yl}azetidine (2.52 g, 3.50 mmol) (obtained as described in Reference Example 34(2)) in anhydrous tetrahydrofuran (126 ml) was added a solution of 1.0M tetra-n-butylammonium fluoride in tetrahydrofuran (8.40 ml, 8.40 mmol) in an ice bath. The mixture was stirred overnight. After checking the completion of the reaction, the reaction mixture was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate→ethyl acetate:methanol (9:1) as the eluant to afford 3-hydroxy-1-{4-[(1S)-1-(hydroxymethyl)-propylcarbamoyl]-1,3-thiazol-2-yl}azetidine (947 mg, yield 100%) as a pale yellow oil.

reactant | 3-t-butyldiphenylsilyloxy-1-{4-[(1S)-1-(t-butyldiphenylsilyloxymethyl)-propylcarbamoyl]-1,3-thiazol-2-yl}azetidine | 3.50 mmol, 2.52 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(N[C@@H](CC)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O | C43H53N3O3SSi2
reactant | tetra-n-butylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 126 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8.40 mmol, 8.40 ml | O1CCCC1 | C4H8O
product | 3-hydroxy-1-{4-[(1S)-1-(hydroxymethyl)-propylcarbamoyl]-1,3-thiazol-2-yl}azetidine | 947 mg, yield 100% | OC1CN(C1)C=1SC=C(N1)C(N[C@@H](CC)CO)=O | C11H17N3O3S
